US05753664
3,5-Dimethyl-2-[4-[4-(2-hydroxyethoxy)benzoyl]-benzylthio]-4(3H)-quinazolinone
A solution of 2-[4-[4-(2-acetoxyethoxy)benzoyl]-benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (1.75 g) and 1N-aqueous sodium hydroxide solution (15 ml) in methanol (50 ml)-dichloromethane (25 ml) was stirred at room temperature for 3 hours. This reaction mixture was extracted with dichloromethane and the extract was dried and concentrated. The residue was recrystallized from ethyl acetate to provide the title compound as colorless solid (1.278 g).

reactant | 2-[4-[4-(2-acetoxyethoxy)benzoyl]-benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 1.75 g | C(C)(=O)OCCOC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C28H26N2O5S
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | methanol | 50 ml | CO | CH4O
product | 3,5-Dimethyl-2-[4-[4-(2-hydroxyethoxy)benzoyl]-benzylthio]-4(3H)-quinazolinone | 1.278 g | CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCO)=O | C26H24N2O4S
